US08895582B2
To a solution of (S)-2-amino-6-methoxy-6-oxohexanoic acid (20 g, 95 mmol) in H2O (50 mL) and 1,4-dioxane (150 mL) was added a solution of NaHCO3 (20 g, 238 mmol, 2.5 equiv.) in H2O (50 mL) dropwise at 0° C. Boc2O (25 g, 114 mmol, 1.2 equiv.) was added in 3 portions. The mixture was warmed up to RT and stirred for 1 h. The organic solvent was removed. The aqueous solution was washed with ether (200 mL). The solution was cooled down to 0° C., adjusted to pH 3-4 with HCl (1 N). The solution was extracted with EtOAc (300 mL×2). The organic layers were combined, dried over MgSO4, and concentrated to give (S)-2-(tert-butoxycarbonylamino)-6-methoxy-6-oxohexanoic acid (23.5 g, 90%). LRMS (M-Boc+H+) m/z 176.1.

reactant | (S)-2-amino-6-methoxy-6-oxohexanoic acid | 95 mmol, 20 g | N[C@H](C(=O)O)CCCC(=O)OC | C7H13NO4
reactant | NaHCO3 | 238 mmol, 20 g, 2.5 equiv. | C(=O)(O)[O-].[Na+]
reactant | Boc2O | 114 mmol, 25 g, 1.2 equiv. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O | 50 mL | O | H2O
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 50 mL | O | H2O
product | (S)-2-(tert-butoxycarbonylamino)-6-methoxy-6-oxohexanoic acid | 23.5 g, 90% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCC(=O)OC | C12H21NO6
